US08859550B2
5-Bromo-8-(4-methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine
8-(4-Methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine (100 g, 0.456 mol, 1.0 eq.) was suspended in acetic acid (110 ml) under nitrogen and stirred at 35° C. until a solution was obtained. The solution was cooled to 16° C. and N-Bromosuccinimide (82.14 g, 0.461 mol, 1.01 eq.) is added at such a rate that the temperature of the reaction was maintained at 14-18° C. The reaction was monitored and additional aliquots of N-bromosuccinimide added as necessary to ensure conversion was ≧99.5% after 2-3 hours stirring at 20° C. stirring. Water was added, and the solution is cooled to 13° C. The pH of the suspension is adjusted to 8.3-8.5 by addition of triethylamine. The resulting suspension was filtered, washed with water, and dried to afford the desired product (136.02 g, 100% yield).

reactant | 8-(4-Methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine | 0.456 mol, 100 g, 1.0 eq. | CN1CCN(CC1)C=1C=2N(C=CN1)N=NN2 | C9H13N7
reactant | N-Bromosuccinimide | 0.461 mol, 82.14 g, 1.01 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-8-(4-methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine | 136.02 g, 100% yield | BrC1=CN=C(C=2N1N=NN2)N2CCN(CC2)C | C9H12BrN7
